US06476045B2
5-Chloro-3-iodo-2-pyridinamine
Iodine (13.2 g, 52 mmol) was added to a mixture of 5-chloro-2-pyridinamine (6.68 g, 52 mmol) and silver sulfate (16.2 g, 52 mmol) in ethanol (350 mL) and the mixture was stirred at room temperature for 20 h. The mixture was filtered through a glass fibre pad and the solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane (600 mL), washed with aqueous sodium hydroxide (5%, 500 mL), water (500 mL) and brine (500 mL), dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (80:20), to give the title compound as a pale orange solid (7.1 g, 54%). 1H NMR (360 MHz, CDCl3) δ 7.99 (1H, d, J 2.2 Hz), 7.84 (1H, d, J 2.2 Hz), and 4.94 (2H, br s). m/z (ES+) 255, 257 (M+1).

reactant | Iodine | 52 mmol, 13.2 g | II | I2
reactant | 5-chloro-2-pyridinamine | 52 mmol, 6.68 g | ClC=1C=CC(=NC1)N | C5H5ClN2
solvent | ethanol | 350 mL | C(C)O | C2H6O
catalyst | silver sulfate | 52 mmol, 16.2 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 5-Chloro-3-iodo-2-pyridinamine | 7.1 g, 54% | ClC=1C=C(C(=NC1)N)I | C5H4ClIN2
